US06288061B1
Ethyl 2-hydroxyimino-3-(4-trifluoromethylphenyl)-3-oxopropionate (15.0 g) and 1-aminomethylnaphthalene (9.6 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 2-(1-naphthyl)-5-(4-trifluoromethyl-phenyl)imidazole-4-carboxylate (6.4 g). 5.0 g therefrom was dissolved in ethyl alcohol (100 ml) and 1 M sodium hydroxide solution (30 ml) was added. The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(1-naphthyl)-5-(4-trifluoromethylphenyl)imidazole-4-carboxyic acid (3.4 g), melting point 166° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-trifluoromethylphenyl)-3-oxopropionate | 15.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NO4
reactant | 1-aminomethylnaphthalene | 9.6 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
product | ethyl 2-(1-naphthyl)-5-(4-trifluoromethyl-phenyl)imidazole-4-carboxylate | 6.4 g | C1(=CC=CC2=CC=CC=C12)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C23H17F3N2O2
